US08633200B2
A solution of (2S)-methyl 2-(tert-butoxy)-2-(7-(8-fluoro-5-methylchroman-6-yl)-5-methyl-2-(5,6,7,8-tetrahydronaphthalen-2-yl)pyrazolo[1,5-a]pyrimidin-6-yl)acetate (22 mg, 0.038 mmol) and 1M NaOH (0.154 mL, 0.154 mmol) in MeOH (2 mL) was heated at 60° C. for 16 h. Then, the reaction mixture was cooled and purified by prep HPLC to afford (2S)-2-(tert-butoxy)-2-(7-(8-fluoro-5-methylchroman-6-yl)-5-methyl-2-(5,6,7,8-tetrahydronaphthalen-2-yl)pyrazolo[1,5-a]pyrimidin-6-yl)acetic acid (12 mg, 0.020 mmol, 53.1% yield) as white solid. 1H NMR (500 MHz, CDCl3) δ: 7.56 (d, J=7.9 Hz, 1H), 7.52 (s, 1H), 7.09 (d, J=7.9 Hz, 1H), 6.96 (d, J=10.7 Hz, 1H), 6.86 (s, 1H), 5.11 (s, 1H), 4.39-4.31 (m, 2H), 2.86-2.75 (m, 6H), 2.73 (s, 3H), 2.20-2.18 (m, 2H), 1.95 (s, 3H), 1.84-1.80 (m, 4H), 1.24 (s, 9H). LCMS (M+H)=558.4.

reactant | (2S)-methyl 2-(tert-butoxy)-2-(7-(8-fluoro-5-methylchroman-6-yl)-5-methyl-2-(5,6,7,8-tetrahydronaphthalen-2-yl)pyrazolo[1,5-a]pyrimidin-6-yl)acetate | 0.038 mmol, 22 mg | C(C)(C)(C)O[C@H](C(=O)OC)C=1C(=NC=2N(C1C=1C(=C3CCCOC3=C(C1)F)C)N=C(C2)C2=CC=1CCCCC1C=C2)C | C34H38FN3O4
reactant | NaOH | 0.154 mmol, 1M, 0.154 mL | [OH-].[Na+]
solvent | MeOH | 2 mL | CO | CH4O
product | (2S)-2-(tert-butoxy)-2-(7-(8-fluoro-5-methylchroman-6-yl)-5-methyl-2-(5,6,7,8-tetrahydronaphthalen-2-yl)pyrazolo[1,5-a]pyrimidin-6-yl)acetic acid | 0.020 mmol, 12 mg, 53.1% yield | C(C)(C)(C)O[C@H](C(=O)O)C=1C(=NC=2N(C1C=1C(=C3CCCOC3=C(C1)F)C)N=C(C2)C2=CC=1CCCCC1C=C2)C | C33H36FN3O4
